US07291635B2
The title B compound, (2-amino-phenyl) acetic acid methyl ester (4.2 g, 25.4 mmol) is dissolved in DMF (30 mL). Powdered potassium carbonate (8.78 g, 63.5 mmol) and t-butyl bromoacetate (4.12 mL, 27.9 mmol) are added and the reaction is stirred at room temperature for 18 h and then at 50° C. for 1 h. The reaction is diluted with water (300 mL) and extracted with EtOAc (2×200 mL). Combined EtOAc layers are washed with water (2×100 mL) then brine (100 mL), dried over anhydrous MgSO4, filtered and concentrated to give a viscous brown oil. This residue is chromatographed on a 110 g silica gel RediSep (Isco Inc.) column with a 30 mL/min gradient elution of 10:90 (EtOAc:hexane) to 25:75 over 30 min. Fractions containing product are combined and evaporated to yield [2-(t-butoxy-carbonylmethyl-amino)-phenyl]-acetic acid methyl ester as a clear amber oil: [M+1]+=280.

reactant | (2-amino-phenyl) acetic acid methyl ester | 25.4 mmol, 4.2 g | COC(CC1=C(C=CC=C1)N)=O | C9H11NO2
reactant | potassium carbonate | 63.5 mmol, 8.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 27.9 mmol, 4.12 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | [2-(t-butoxy-carbonylmethyl-amino)-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC=C1)NCC(=O)OC(C)(C)C)=O | C15H21NO4
